2103-02-23 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2103-2-22**] 04:25 PM
   line placed by fellow and resident, time out done
 NASAL SWAB - At [**2103-2-22**] 10:56 PM
 PERCUTANEOUS DRAIN INSERTION - At [**2103-2-23**] 01:00 AM
   To IR for percutaneous drain insertions
 ARTERIAL LINE - START [**2103-2-23**] 05:39 AM
 FEVER - 101.3
F - [**2103-2-22**] 08:00 PM
   .
   Patient hypotensive to SBP70-90s, levophed started. Patient
   asymptomatic during this time, mentating, with urine output. Was
   receiving blood and volume resuscitation. In discussion with IR,
   patient was intubated and taken to PTC drain placement. 100cc was
   drained (fluid sent for cultures), original PTC drain changed and two
   new drains placed (1 pos, 1 into liver abscess region). Successfully
   extubated and returned to MICU without issues.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2103-2-22**] 03:18 PM
   Ceftazidime - [**2103-2-22**] 04:24 PM
   Gentamicin - [**2103-2-22**] 04:24 PM
   Fluconazole - [**2103-2-22**] 08:29 PM
   Tobramycin - [**2103-2-23**] 06:15 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-2-23**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**05**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 35.9
C (96.7
   HR: 84 (71 - 113) bpm
   BP: 129/52(80) {129/52(80) - 151/64(98)} mmHg
   RR: 22 (17 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 9 (8 - 357)mmHg
   Total In:
                                                                  7,182 mL
                                                                  1,849 mL
   PO:
   TF:
   IVF:
                                                                  5,691 mL
                                                                  1,217 mL
   Blood products:
                                                                    491 mL
                                                                    632 mL
   Total out:
                                                                    775 mL
                                                                    885 mL
   Urine:
                                                                    775 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
                                                                     75 mL
   Balance:
                                                                  6,407 mL
                                                                    964 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 99%
   ABG: 7.39/37/121/20/-1
   PaO2 / FiO2: 121
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   204 K/uL
   9.2 g/dL
   84 mg/dL
   1.2 mg/dL
   20 mEq/L
   3.2 mEq/L
   19 mg/dL
   110 mEq/L
   140 mEq/L
   27.0 %
   10.8 K/uL
        [image002.jpg]
                             [**2103-2-22**]  03:42 PM
                             [**2103-2-23**]  05:15 AM
                             [**2103-2-23**]  05:25 AM
   WBC
   8.6
   10.8
   Hct
   22.7
   27.0
   Plt
   212
   204
   Cr
   1.6
   1.2
   TropT
   0.05
   TCO2
   23
   Glucose
   83
   84
   Other labs: PT / PTT / INR:16.6/37.2/1.5, CK / CKMB /
   Troponin-T:26//0.05, ALT / AST:46/95, Alk Phos / T Bili:156/14.7,
   Differential-Neuts:89.0 %, Band:5.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0
   %, Fibrinogen:386 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL,
   Ca++:6.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   Mr [**Known lastname 11054**] is a 77M with h/o gastric adenocarcinoma who presents after
   a long hospitalization in [**Location (un) 11050**] for cholelithiasis s/p GB removal
   complicated by biliary sepsis, initially improved enough for transfer
   to the US but developed fever and hypotension and has pseudomonas and
   yeast growing out of his biliary fluids as well as a non-draining fluid
   collection seen on CT.
   .
   #Septic Shock: Given fever, rising WBC count, hypotension and
   hepatobiliary abscess growing psuedomonas and [**Female First Name (un) 444**] and undrained
   (possibly infected) fluid collection presumed [**2-6**] infection. Blood
   cultures from yesterday morning GNR. 2 units pRBC and fluid boluses.
   -Currently on Levophed, will try to wean; will trend CVPs
   -Vanco for GPCs, Start metronidazole, Ceftaz +Gent for pseudomonas
   (will load with Gent tonight then continue daily with Tobramycin per ID
   recs)
   -renally dose all meds, discuss ABx choices with ID
   -Carotid U/A re: ear sounds corresponding to pulse, given frequent
   central line cannulations
   -Fluconazole for [**Female First Name (un) **] (renally dosed for Cr. 1.6 =GFR 36)
   -follow CVP
   -IR drainage of fluid collection for source control
   -ECHO to eval cardiac function and for endocarditis (audible murmur)
   -f/u final sensitivities of pseudomonas, [**Female First Name (un) **]
   .
   # LFT abnormalities: Patient has remote history of moderate
   transaminitis [**2-12**], thought possibly to to NASH, but no known
   cirrhosis. Patient's LFTs consistent with obstrutive process and though
   one drain appears to be draining, it is possible he has another
   biliious collection that is not bring drained.  Also the patient had a
   question of Klatskins tumor and per liver, cholangiocarcinoma cannot be
   ruled out.  MELD score currently 26. IR placed 2 PTCs and changed over
   original PTC
   -trend LFTs
   -f/u liver recs
   -patient may require biopsy of mass seen on CT, but patient is not
   aware of this and his family has asked us not to tell him in the short
   term and they would like to be part of the discussion.
   - biliary drains to gravity and will monitor output
   .
   # Acute on Chronic renal failure: Patient required HD x3-4 sessions in
   [**Location (un) 11050**], his kidneys recovered to creatinine of 1.4. Now 1.6 in the
   setting of hypotension, likely due to poor blood flow to kidneys/ATN.
   Significantly improved this morning at 1.2
   -Continue managing sepsis per above
   -Renally dose medications
   -If creatinine worsens, consider renal consult
   -Check PM lytes
   .
   * Leukopenia:  Presented with leukopenia which resolved after stopping
   meropenem. ANC 3950.
   -trend CBC
   -holding Meropenem
   .
   * Anemia:
   Hct trending down slowly, worsened yesterday in the setting of IVF.
   Likely due to chronic inflammation, though possibly some bone marrow
   suppression from ABX use.  Transfused two units yesterday and bumped
   appropriately. DIC also possible given sepsis.
   -transfuse for HCT <25
   -DIC labs
   .
   * CAD: Hypotension is unlikely cardiogenic, but patient does have CAD
   history.
   No symptoms currently suggestive of acute cardiac ischemia. Cardiac
   enzymes stable (Trop 0.05)
   -ECHO
   -hold BB, ASA, statin in setting of sepsis and LFT abnormalities
   Nutrition: NPO
   Access: CVL, PIV, arterial line
   Ppx: SCH
   CODE: Full
   DISPO: Transfer to transplant surgery today
 SHOCK, SEPTIC
 LIVER ABSCESS
 .H/O GASTRECTOMY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2103-2-22**] 04:07 PM
   Multi Lumen - [**2103-2-22**] 04:25 PM
   Arterial Line - [**2103-2-23**] 05:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2103-02-23 09:16:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: severe sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2103-2-22**] 04:25 PM
   line placed by fellow and resident, time out done
 NASAL SWAB - At [**2103-2-22**] 10:56 PM
 PERCUTANEOUS DRAIN INSERTION - At [**2103-2-23**] 01:00 AM
   To IR for percutaneous drain insertions
 ARTERIAL LINE - START [**2103-2-23**] 05:39 AM
 FEVER - 101.3
F - [**2103-2-22**] 08:00 PM
   Developed shock --> IR emergently for drainage.  Intubated for
   procedure, successfully intubated, now off pressors.
   Notes some tinnitus, esp on left this morning
   Transfer request by transplant surgery, which seems reasonable
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2103-2-22**] 04:24 PM
   Gentamicin - [**2103-2-22**] 04:24 PM
   Fluconazole - [**2103-2-22**] 08:29 PM
   Tobramycin - [**2103-2-23**] 06:15 AM
   Vancomycin - [**2103-2-23**] 08:24 AM
   Infusions:
   Other ICU medications:
   Other medications:
   vanco, ceftaz, MVi, folate, thiamine, fluconazole, SQH, tobra
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-2-23**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**05**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 35.6
C (96.1
   HR: 82 (71 - 113) bpm
   BP: 127/58(83) {127/52(80) - 151/64(98)} mmHg
   RR: 25 (17 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 10 (8 - 357)mmHg
   Total In:
                                                                  7,182 mL
                                                                  2,111 mL
   PO:
   TF:
   IVF:
                                                                  5,691 mL
                                                                  1,479 mL
   Blood products:
                                                                    491 mL
                                                                    632 mL
   Total out:
                                                                    775 mL
                                                                  1,105 mL
   Urine:
                                                                    775 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
                                                                     75 mL
   Balance:
                                                                  6,407 mL
                                                                  1,006 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.39/37/121/20/-1
   PaO2 / FiO2: 121
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: systolic murmur
   now absent)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, drain
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   9.2 g/dL
   204 K/uL
   84 mg/dL
   1.2 mg/dL
   20 mEq/L
   3.2 mEq/L
   19 mg/dL
   110 mEq/L
   140 mEq/L
   27.0 %
   10.8 K/uL
        [image002.jpg]
                             [**2103-2-22**]  03:42 PM
                             [**2103-2-23**]  05:15 AM
                             [**2103-2-23**]  05:25 AM
   WBC
   8.6
   10.8
   Hct
   22.7
   27.0
   Plt
   212
   204
   Cr
   1.6
   1.2
   TropT
   0.05
   TCO2
   23
   Glucose
   83
   84
   Other labs: PT / PTT / INR:16.6/37.2/1.5, CK / CKMB /
   Troponin-T:26//0.05, ALT / AST:46/95, Alk Phos / T Bili:156/14.7,
   Differential-Neuts:88.3 %, Band:0.0 %, Lymph:8.4 %, Mono:2.7 %, Eos:0.5
   %, Fibrinogen:386 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL,
   Ca++:6.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Microbiology: BCx with GNR
   Assessment and Plan
   77 y/o man with septic shock, presumptively from biliary source.
   Biliary and gut anatomy quite complex.  Went to IR last night and
   appears to have source control given improved hemodynamics.
   Sepsis, presumptive biliary source with GNR (Pseudomonas), [**Female First Name (un) **], and
   potentially other pathogens
          Vanco, tobra, fluconazole, Flagyl as per ID recs
          Discuss aminogylcoside with ID, given tinnitus.  [**Month (only) 11**] need to
   change to another antibiotic
          Now off levophed
   Acute renal failure
          Likely hemodynamic/sepsis related.  Improving.
   Anemia
          Follow
   Leukopenia
          Felt most likely related to meropenem
   Known CAD with reversible defect
          Expectant management and hemodynamic support
   Tinnitus, L >>R
          New-onset in setting on both aminogylcoside and prior [**Name (NI) 11064**]
   (unclear if left IJ)
          Carotid ultrasound to exclude pseudoaneurysm, since he may
   have had prior IJ cannulation
   Murmur
          Gone today, but reasonable to echo given bacteremia
   Possible tumor
          Has imaging that has suggested possible tumor near hepatic
   arteries but may well be inflammatory
          Family wishes to be present for any discussion
          At this point, seems most appropriate to treat sepsis and
   other issues and re-image when more stable
   DVT proph
 hold SQH today, discuss with surgery and IR
   Other issues as per ICU team note
   Discussed with patient and HCP.
   ICU [**Name2 (NI) 232**]
   Glycemic Control:
   Lines:
   22 Gauge - [**2103-2-22**] 04:07 PM
   Multi Lumen - [**2103-2-22**] 04:25 PM
   Arterial Line - [**2103-2-23**] 05:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU.  Transfer to SICU.
   Total time spent: 30 minutes
   Patient is critically ill

2103-02-24 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2103-2-23**] 10:21 AM
 ULTRASOUND - At [**2103-2-23**] 11:21 AM
   carotids
   - morphine prn order placed for pain when moved
   - on Cipro, Flagyl, Fluc, Ceftaz -- Vanco and Tobra d/c'd per ID recs
   and with concern for ototoxicity
   - carotid US: no dissections, < 40% on L, R
   - Echo: LVEF>55%
   - Biliary catheter placed, 300 cc bilious drain output
   - [**2-6**] + blood cxs [**2-22**] GNRs
   - decreased urine output, creatinine increased: 1 L NS bolus ordered
   History obtained from Patient, Interpreter
   Allergies:
   History obtained from Patient, [**Name (NI) 11089**] Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2103-2-22**] 04:24 PM
   Tobramycin - [**2103-2-23**] 06:15 AM
   Vancomycin - [**2103-2-23**] 08:24 AM
   Fluconazole - [**2103-2-23**] 04:02 PM
   Metronidazole - [**2103-2-24**] 02:00 AM
   Ciprofloxacin - [**2103-2-24**] 02:15 AM
   Ceftazidime - [**2103-2-24**] 05:45 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2103-2-24**] 04:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Abdominal pain
   Pain: [**3-8**] Mild
   Pain location: Abdomen
   Flowsheet Data as of  [**2103-2-24**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**05**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 93 (72 - 93) bpm
   BP: 135/55(84) {111/45(69) - 135/63(87)} mmHg
   RR: 20 (19 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
    CVP: 9 (8 - 10)mmHg
   Total In:
                                                                  4,601 mL
                                                                    476 mL
   PO:
                                                                    560 mL
   TF:
   IVF:
                                                                  3,409 mL
                                                                    476 mL
   Blood products:
                                                                    632 mL
   Total out:
                                                                  2,720 mL
                                                                  1,435 mL
   Urine:
                                                                  1,770 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
                                                                    950 mL
                                                                    800 mL
   Balance:
                                                                  1,881 mL
                                                                   -959 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: to palpation,
   throughout, No rebound tenderness or guarding
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   193 K/uL
   9.2 g/dL
   69 mg/dL
   1.6 mg/dL
   19 mEq/L
   3.4 mEq/L
   19 mg/dL
   113 mEq/L
   140 mEq/L
   26.6 %
   7.6 K/uL
        [image002.jpg]
                             [**2103-2-22**]  03:42 PM
                             [**2103-2-23**]  05:15 AM
                             [**2103-2-23**]  05:25 AM
                             [**2103-2-23**]  03:46 PM
                             [**2103-2-24**]  01:29 AM
   WBC
   8.6
   10.8
   7.6
   Hct
   22.7
   27.0
   26.6
   Plt
   [**Telephone/Fax (3) 11090**]
   Cr
   1.6
   1.2
   1.4
   1.6
   TropT
   0.05
   TCO2
   23
   Glucose
   83
   84
   73
   69
   Other labs: PT / PTT / INR:14.8/34.1/1.3, CK / CKMB /
   Troponin-T:26//0.05, ALT / AST:46/95, Alk Phos / T Bili:156/14.7,
   Differential-Neuts:88.3 %, Band:0.0 %, Lymph:8.4 %, Mono:2.7 %, Eos:0.5
   %, Fibrinogen:386 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL,
   Ca++:7.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Imaging: [**2-23**] TTE:  Normal biventricular cavity size and systolic
   function. Mild biatrial enlargement. No significant valvular pathology.
   [**2-23**] Carotid U/S: Pending
   [**2-23**] Cholangiogram: Pending
   [**2-24**] CXR: Pending
   Microbiology: [**2-20**] Bile:                              PSEUDOMONAS
   AERUGINOSA
   CEFEPIME--------------     4 S
   CEFTAZIDIME-----------     4 S
   CIPROFLOXACIN---------   0.5 S
   GENTAMICIN------------   <=1 S
   MEROPENEM-------------     1 S
   PIPERACILLIN/TAZO-----    16 S
   TOBRAMYCIN------------   <=1 S
   [**2-23**] Bile drain:
      GRAM STAIN (Final [**2103-2-23**]): 1+ PMNs. No microorganisms
      FLUID CULTURE (Preliminary):
      ANAEROBIC CULTURE (Preliminary):
      FUNGAL CULTURE (Preliminary):
   [**2-22**] BCx:    Blood Culture, Routine (Preliminary): GRAM NEGATIVE
   ROD(S).
      Aerobic Bottle Gram Stain (Final [**2103-2-22**]): GRAM NEGATIVE ROD(S).
   [**2-19**], [**2-21**] BCx: Pending
   Assessment and Plan
   Mr [**Known lastname 11054**] is a 77M with h/o gastric adenocarcinoma who presents after
   a long hospitalization in [**Location (un) 11050**] for cholelithiasis s/p GB removal
   complicated by biliary sepsis, initially improved enough for transfer
   to the US but developed fever and hypotension and has pseudomonas and
   yeast growing out of his biliary fluids as well as a non-draining fluid
   collection seen on CT.
   .
   #Septic Shock: Given fever, rising WBC count, hypotension and
   hepatobiliary abscess growing psuedomonas and [**Female First Name (un) 444**] and undrained
   (possibly infected) fluid collection presumed [**2-6**] infection. Blood
   cultures from yesterday morning GNR. 2 units pRBC and fluid boluses.
   -Currently on Levophed, will try to wean; will trend CVPs
   -Vanco for GPCs, Start metronidazole, Ceftaz +Gent for pseudomonas
   (will load with Gent tonight then continue daily with Tobramycin per ID
   recs)
   -renally dose all meds, discuss ABx choices with ID
   -Carotid U/A re: ear sounds corresponding to pulse, given frequent
   central line cannulations
   -Fluconazole for [**Female First Name (un) **] (renally dosed for Cr. 1.6 =GFR 36)
   -follow CVP
   -IR drainage of fluid collection for source control
   -ECHO to eval cardiac function and for endocarditis (audible murmur)
   -f/u final sensitivities of pseudomonas, [**Female First Name (un) **]
   .
   # LFT abnormalities: Patient has remote history of moderate
   transaminitis [**2-12**], thought possibly to to NASH, but no known
   cirrhosis. Patient's LFTs consistent with obstrutive process and though
   one drain appears to be draining, it is possible he has another
   biliious collection that is not bring drained.  Also the patient had a
   question of Klatskins tumor and per liver, cholangiocarcinoma cannot be
   ruled out.  MELD score currently 26. IR placed 2 PTCs and changed over
   original PTC
   -trend LFTs
   -f/u liver recs
   -patient may require biopsy of mass seen on CT, but patient is not
   aware of this and his family has asked us not to tell him in the short
   term and they would like to be part of the discussion.
   - biliary drains to gravity and will monitor output
   .
   # Acute on Chronic renal failure: Patient required HD x3-4 sessions in
   [**Location (un) 11050**], his kidneys recovered to creatinine of 1.4. Now 1.6 in the
   setting of hypotension, likely due to poor blood flow to kidneys/ATN.
   Significantly improved this morning at 1.2
   -Continue managing sepsis per above
   -Renally dose medications
   -If creatinine worsens, consider renal consult
   -Check PM lytes
   .
   * Leukopenia:  Presented with leukopenia which resolved after stopping
   meropenem. ANC 3950.
   -trend CBC
   -holding Meropenem
   .
   * Anemia:
   Hct trending down slowly, worsened yesterday in the setting of IVF.
   Likely due to chronic inflammation, though possibly some bone marrow
   suppression from ABX use.  Transfused two units yesterday and bumped
   appropriately. DIC also possible given sepsis.
   -transfuse for HCT <25
   -DIC labs
   .
   * CAD: Hypotension is unlikely cardiogenic, but patient does have CAD
   history.
   No symptoms currently suggestive of acute cardiac ischemia. Cardiac
   enzymes stable (Trop 0.05)
   -ECHO
   -hold BB, ASA, statin in setting of sepsis and LFT abnormalities
   Nutrition: NPO
   Access: CVL, PIV, arterial line
   Ppx: SCH
   CODE: Full
   DISPO: Transfer to transplant surgery today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2103-2-22**] 04:07 PM
   Multi Lumen - [**2103-2-22**] 04:25 PM
   Arterial Line - [**2103-2-23**] 05:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: